.SubCkt KRM31FR61E106KH01 [_net1] [_net2]
.param K01=6.8190e-06
.param M01=5.0000e+06
.param L02=3.0549e-11
.param M03=7.8674e-03
.param K04=2.0864e-04
.param M04=5.3850e+00
.param K05=2.1955e-04
.param M05=4.9100e-01
.param K06=2.4982e-04
.param M06=6.4409e-02
.param K07=1.6056e-04
.param M07=1.9271e-02
.param L08=8.3879e-12
.param M08=1.6005e-01
.param L09=1.3460e-10
.param M09=7.9371e-02
.param L10=5.1233e-10
.param M10=1.8931e-02
.param L11=7.3130e-11
.param M11=1.2505e-03
.param K12=7.1227e-13
.param L12=1.2037e-09
.param M12=4.1839e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends KRM31FR61E106KH01

.SubCkt KRM31KC81E106KH01 [_net1] [_net2]
.param K01=7.6958e-06
.param M01=5.0000e+06
.param L02=3.0197e-10
.param M03=1.1661e-02
.param K04=3.7071e-04
.param M04=2.8116e+00
.param K05=3.9045e-04
.param M05=2.4046e-01
.param K06=3.5324e-04
.param M06=2.0507e-02
.param L07=1.8349e-10
.param M07=6.0647e-02
.param L08=4.8499e-12
.param M08=4.3875e-02
.param L09=1.2881e-09
.param M09=3.2403e-02
.param K10=1.2223e-11
.param L10=1.3800e-10
.param M10=3.1033e+01
.param K11=1.2344e-12
.param L11=1.0166e-09
.param M11=1.5878e+02
.param K12=8.7757e-12
.param L12=7.5013e-11
.param M12=2.8623e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends KRM31KC81E106KH01

.SubCkt KRM31KC8YA106KH01 [_net1] [_net2]
.param K01=7.6958e-06
.param M01=5.0000e+06
.param L02=3.0197e-10
.param M03=1.1661e-02
.param K04=3.7071e-04
.param M04=2.8116e+00
.param K05=3.9045e-04
.param M05=2.4046e-01
.param K06=3.5324e-04
.param M06=2.0507e-02
.param L07=1.8349e-10
.param M07=6.0647e-02
.param L08=4.8499e-12
.param M08=4.3875e-02
.param L09=1.2881e-09
.param M09=3.2403e-02
.param K10=1.2223e-11
.param L10=1.3800e-10
.param M10=3.1033e+01
.param K11=1.2344e-12
.param L11=1.0166e-09
.param M11=1.5878e+02
.param K12=8.7757e-12
.param L12=7.5013e-11
.param M12=2.8623e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends KRM31KC8YA106KH01

.SubCkt KRM31KR71H475KH01 [_net1] [_net2]
.param K01=4.2570e-06
.param M01=1.0638e+08
.param L02=2.2576e-11
.param M03=6.0237e-03
.param K04=8.9010e-04
.param M04=6.3826e-01
.param K05=8.5476e-04
.param M05=9.7382e-02
.param K06=6.4710e-04
.param M06=1.7433e-02
.param L07=9.1391e-11
.param M07=7.7528e-02
.param L08=5.1074e-10
.param M08=3.0457e-02
.param L09=4.5596e-10
.param M09=5.6541e-03
.param K10=1.4527e-05
.param L10=9.1974e-11
.param M10=8.2760e-03
.param K11=1.1394e-05
.param L11=5.6839e-11
.param M11=8.1485e-03
.param K12=9.4417e-13
.param L12=1.1772e-09
.param M12=5.4039e+02
.param K13=2.9298e-12
.param L13=2.0167e-10
.param M13=4.6746e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends KRM31KR71H475KH01

.SubCkt KRM31KR71H225KH01 [_net1] [_net2]
.param K01=2.1054e-06
.param M01=2.2727e+08
.param L02=2.2642e-11
.param M03=5.4184e-03
.param K04=2.5728e-04
.param M04=1.3467e-01
.param K05=2.1368e-04
.param M05=1.3691e-02
.param K06=4.9937e-05
.param M06=2.8602e-03
.param L07=5.2882e-11
.param M07=8.3465e-02
.param L08=4.5460e-10
.param M08=5.1740e-02
.param L09=7.7207e-10
.param M09=8.7625e-03
.param K10=3.5550e-04
.param L10=1.2022e-03
.param M10=6.9314e-01
.param K11=5.9536e-06
.param L11=1.0219e-10
.param M11=1.1176e-02
.param K12=2.1333e-06
.param L12=1.1954e-10
.param M12=1.4788e-02
.param K13=6.7116e-13
.param L13=1.4226e-09
.param M13=7.8561e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends KRM31KR71H225KH01

.SubCkt KRM31KR72A105KH01 [_net1] [_net2]
.param K01=9.8005e-07
.param M01=5.0000e+08
.param L02=1.4503e-11
.param M03=1.1454e-02
.param K04=1.7254e-04
.param M04=8.0131e-01
.param K05=1.2303e-04
.param M05=1.2559e-01
.param K06=1.2466e-04
.param M06=1.2074e-02
.param L07=4.3452e-12
.param M07=1.1624e-01
.param L08=3.1835e-11
.param M08=7.3007e-02
.param L09=4.4258e-10
.param M09=6.3683e-02
.param L10=3.0857e-10
.param M10=5.5148e-03
.param K11=2.6651e-06
.param L11=1.0259e-10
.param M11=2.1531e-02
.param K12=1.5099e-06
.param L12=6.8896e-11
.param M12=2.1602e-02
.param K13=6.2102e-13
.param L13=1.4286e-09
.param M13=2.0843e+03
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends KRM31KR72A105KH01

.SubCkt KRM31KR72A225KH01 [_net1] [_net2]
.param K01=2.1574e-06
.param M01=2.2727e+08
.param L02=3.5865e-11
.param M03=7.0080e-03
.param K04=3.8110e-04
.param M04=6.2713e-01
.param K05=3.1035e-04
.param M05=9.4664e-02
.param K06=2.5887e-04
.param M06=1.5809e-02
.param L07=5.9491e-11
.param M07=1.8185e-01
.param L08=2.5918e-10
.param M08=3.8665e-02
.param L09=2.2482e-10
.param M09=6.5336e-03
.param K10=8.6278e-06
.param L10=6.0976e-11
.param M10=8.0086e-03
.param K11=2.1100e-06
.param L11=1.0127e-10
.param M11=1.4513e-02
.param K12=9.7549e-12
.param L12=1.5069e-10
.param M12=1.7813e+01
.param K13=5.1408e-13
.param L13=1.2557e-09
.param M13=3.0369e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends KRM31KR72A225KH01
